US05407897
Preparation of Ethyl 6-chloro-3,4-dihydro-2H-1-benzothiopyran-4-carboxylate
A mixture of 6-chloro-3,4-dihydro-2H-1-benzothiopyran-4-carboxylic acid (12.56 g, 0.055 mol) and concentrated sulfuric acid (20 mL) in ethanol is heated at reflux for 29 hours, cooled, concentrated in vacuo and diluted with a water/methylene chloride mixture. The aqueous phase is separated and extracted with methylene chloride. The organic phase and organic extracts are combined, dried, decolorized with activated carbon and concentrated in vacuo to give the title product as a pale yellow oil (12.34 g) which is identified by 1H and 13CNMR spectral analyses.

reactant | 6-chloro-3,4-dihydro-2H-1-benzothiopyran-4-carboxylic acid | 0.055 mol, 12.56 g | ClC=1C=CC2=C(C(CCS2)C(=O)O)C1 | C10H9ClO2S
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 6-chloro-3,4-dihydro-2H-1-benzothiopyran-4-carboxylate | 12.34 g | ClC=1C=CC2=C(C(CCS2)C(=O)OCC)C1 | C12H13ClO2S
